US07473784B2
To a solution of 2,6-dichloro-3-nitropyridine (2.24 g, 11.6, 1.0 eq.) and EtSH (0.86 mL, 11.6 mmol, 1.0 eq.) in THF (60 mL) under nitrogen at 0° C. was added NaH (95%; 0.33 g, 13.1 mmol, 1.1 eq.). After 2.25 hr, the solution was concentrated in vacuo. The residue was dissolved in EtOAc and washed with water, saturated aqueous NaHCO3, water, and brine, dried over Na2SO4, filtered and concentrated in vacuo. Silica gel chromatography using hexanes:EtOAc (10:0.05) as eluent afforded 6-chloro-2-(ethylthio)-3-nitropyridine as a yellow solid (1.34 g, 53%).

reactant | 2,6-dichloro-3-nitropyridine | 2.24 g, 1.0 eq. | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | EtSH | 11.6 mmol, 0.86 mL, 1.0 eq. | CCS | C2H6S
reactant | NaH | 13.1 mmol, 0.33 g, 1.1 eq. | [H-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-chloro-2-(ethylthio)-3-nitropyridine | 1.34 g, 53% | ClC1=CC=C(C(=N1)SCC)[N+](=O)[O-] | C7H7ClN2O2S
